US05959107
A mixture of 5-isoquinolinethiol 220 mg (1.4 mmol), 6-fluoro-7-nitroquinoxaline 260 mg (1.4 mmol), potassium carbonate 380 mg (2.7 mmol) and DMF 3 ml was stirred for 2 hours at 100° C. The reaction solution was poured into water, the precipitates were collected and washed with water, and 6-(5-isoquinolylthio)-7-nitroquinoxaline 410 mg (90.4%) was obtained.

reactant | 5-isoquinolinethiol | 1.4 mmol, 220 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | 6-fluoro-7-nitroquinoxaline | 1.4 mmol, 260 mg | FC=1C=C2N=CC=NC2=CC1[N+](=O)[O-] | C8H4FN3O2
reactant | potassium carbonate | 2.7 mmol, 380 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF 3 | CN(C)CC1=CC(=C(C(=C1)CN(C)C)O)CN(C)C | C15H27N3O
solvent | water | O | H2O
product | 6-(5-isoquinolylthio)-7-nitroquinoxaline | 410 mg, 90.4% | C1=NC=CC2=C(C=CC=C12)SC=1C=C2N=CC=NC2=CC1[N+](=O)[O-] | C17H10N4O2S
